US07589160B2
A mixture of 117.26 g of α-Methylstyrene (Aldrich 99%, 0.98 mol) and 73.0 g of t-Butanol (Aldrich 99%, 0.97 mol) were slowly added (1 hour) to a mixture of 200 g of acetic acid and 200 g of sulfuric acid, previously warmed at 40° C. The suspension so-obtained was stirred 30 min at 40° C. and then the 2 layers were separated. The organic layer was washed with a 0.7 M NaOH acqueous solution (3×50 ml, neutrality) and water (2×50 ml). The opaque yellow solution obtained was then distilled at 26 mbar. At about 100° C. a colourless transparent liquid was distilled off (28.43 g), which was characterized by NMR as pure 1,1,3,3 tetramethylindane (16.6% yield).

reactant | α-Methylstyrene | 0.98 mol, 117.26 g | CC(=C)C1=CC=CC=C1 | C9H10
reactant | t-Butanol | 0.97 mol, 73.0 g | C(C)(C)(C)O | C4H10O
reactant | sulfuric acid | 200 g | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 200 g | C(C)(=O)O | C2H4O2
product | 1,1,3,3 tetramethylindane | 16.6% yield | CC1(CC(C2=CC=CC=C12)(C)C)C | C13H18
